### PR TITLE
feat(Crypto): define PRGs and their security definition

### PR DESCRIPTION
**Pull request by SamuelSchlesinger**
Formalizes Boneh-Shoup's definitions of PRGs and proves the impossibility of making an extending PRG against an arbitrary adversary. Takes the approach of #766 by defining the construction and proving the impossibility in certain contexts, motivating the future computational security definitions.

Composed with Astra using Codex based on some code that I had written by hand.

### CODE REVIEW

File: Cslib/Crypto/Primitives/PRG/Asymptotic.lean [hunk 1]
```diff
@@ -0,0 +1,131 @@
...
+open scoped Topology
+
+/-- A security-parameter-indexed collection of deterministic generators. -/
+abbrev Family (Seed Output : ℕ → Type*) := ∀ n, Generator (Seed n) (Output n)
+
+namespace Family
+
+variable {Seed Output : ℕ → Type*}
+variable [∀ n, Fintype (Seed n)] [∀ n, Nonempty (Seed n)]
+variable [∀ n, Fintype (Output n)] [∀ n, Nonempty (Output n)]
```
Comment (Shreyas4991) [inline Cslib/Crypto/Primitives/PRG/Asymptotic.lean:44]: Why are Generators arbitrary types? Couldn't they just be instances of a structure. Then if the structure got a Fintype or Finite instance, there would be no need to declare [forall n, Fintype (Seed n)] etc. This is just a design comment.

File: Cslib/Crypto/Primitives/PRG/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,158 @@
...
+namespace Cslib.Crypto.PRG.Generator
+
+open scoped NNReal
+
+variable {Seed Output : Type*}
+
+/-- An unbounded adversary tests whether its input is in the generator's range.
+It is not assumed to be admissible for a computationally restricted class. -/
+noncomputable def rangeAdversary (G : Generator Seed Output) : Adversary Output := by
+  classical
```
Comment (Shreyas4991) [inline Cslib/Crypto/Primitives/PRG/Basic.lean:32]: Is this actually needed here? To me it sounds like 
`:= fun output => PMF.pure (decide (output ∈ Set.range G))` might work

File: Cslib/Crypto/Primitives/PRG/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,158 @@
...
+theorem secure_zero_of_outputDist_eq (G : Generator Seed Output)
+    (hG : G.outputDist = PMF.uniformOfFintype Output)
+    (Admissible : Adversary Output → Prop) : G.Secure Admissible 0 := by
+  intro adversary _
+  simp [advantage, realExperiment, idealExperiment, hG]
+
+/-- Zero-error security against arbitrary tests is equivalent to exactly uniform output. -/
+theorem secure_zero_iff_outputDist_eq_uniform (G : Generator Seed Output) :
+    G.Secure (fun _ => True) 0 ↔ G.outputDist = PMF.uniformOfFintype Output := by
+  classical
```
Comment (Shreyas4991) [inline Cslib/Crypto/Primitives/PRG/Basic.lean:74]: It seems better to explicitly declare what Props need to be Decidable than use `classical`.

**Review by Shreyas4991 — COMMENTED** [review]
Initial comments. Not all are "required" of course. I would recommend taking a close took at all uses of `classical`. GPT has a tendency to play it too safe by inserting `classical` anywhere and everywhere.
